US08227431B2
Intermediate 3: Synthesis of (2R 3R,4R)-4-fluoro-2-(hydroxymethyl)-5-methoxy-4-methyl-tetrahydrofuran-3-ol
((2R,3R,4R)-3-benzoyloxy-4-fluoro-5-methoxy-4-methyl-tetrahydrofuran-2-yl)methyl benzoate (17 g, 43.8 mmol) in methanolic ammonia solution (25% w/w, 340 ml) was stirred at room temperature for about 36 hours, completion of the reaction monitored by thin-layer chromatography, methanol was removed under reduced pressure. Water added to the reaction mixture and extracted with ethyl acetate and the organic layer was dried over sodium sulphate. Concentration under reduced pressure and purification by silica gel column chromatography using 20% ethyl acetate in hexane eluded the title compound (8 g) as an off-white solid. Yield: 99%.

reactant | ((2R,3R,4R)-3-benzoyloxy-4-fluoro-5-methoxy-4-methyl-tetrahydrofuran-2-yl)methyl benzoate | 43.8 mmol, 17 g | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@]([C@@H]1OC(C1=CC=CC=C1)=O)(C)F)OC | C21H21FO6
reactant | methanol | CO | CH4O
solvent | ammonia | 340 ml | N | H3N
product | (2R 3R,4R)-4-fluoro-2-(hydroxymethyl)-5-methoxy-4-methyl-tetrahydrofuran-3-ol | Yield: 99% | F[C@@]1([C@@H]([C@H](OC1OC)CO)O)C | C7H13FO4
